US08629270B2
2-Chloro-5-fluoro-4-isopropyl-pyrimidine
A solution of 5-fluoro-2-chloropyrimidine (5.00 g, 37.7 mmol) in 1,2-dimethoxyethane (25 mL) is treated with a solution of 2 M isopropyl magnesium chloride in tetrahydrofuran (28.3 mL, 56.6 mmol) while keeping the temperature below 15° C. The resulting solution is stirred for one hour under nitrogen and then cooled to 0° C. and treated drop wise with a solution of triethylamine (5.76 mL, 37.7 mmol) in tetrahydrofuran (5 mL). A solution of iodine (9.58 g, 37.7 mmol) in tetrahydrofuran (20 mL) is added. The reaction is quenched with water and saturated sodium bicarbonate and saturated sodium bisulfate are added. The mixture is extracted three times with ethyl acetate. The combined organic layers are dried over sodium sulfate and the solvent is removed under vacuum. The crude product is purified over silica gel with a 30 minute gradient, dichloromethane/hexanes (5 to 100%) to give the title compound (2.55 g, 39%). GC/MS (m/e): 174.

reactant | 5-fluoro-2-chloropyrimidine | 37.7 mmol, 5.00 g | FC=1C=NC(=NC1)Cl | C4H2ClFN2
reactant | isopropyl magnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | triethylamine | 37.7 mmol, 5.76 mL | C(C)N(CC)CC | C6H15N
reactant | iodine | 37.7 mmol, 9.58 g | II | I2
solvent | 1,2-dimethoxyethane | 25 mL | COCCOC | C4H10O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 56.6 mmol, 28.3 mL | O1CCCC1 | C4H8O
product | 2-Chloro-5-fluoro-4-isopropyl-pyrimidine | 2.55 g, 39% | ClC1=NC=C(C(=N1)C(C)C)F | C7H8ClFN2
